US08609676B2
To a solution of 5-(benzyloxy)-6-p-tolylpyrimidine-4-carboxylic acid P72 (80 mg, 0.25 mmol) in DMF (3 mL) was added 3,4-diaminobenzonitrile (40 mg, 0.30 mmol), HATU (124 mg, 0.33 mmol) and diisopropylethylamine (48 mg, 0.37 mmol). The reaction mixture was stirred at room temperature for 18 hours. The organic solvent was evaporated under reduced pressure. Ethyl acetate and 1 N hydrochloric acid were added. The organic layer was washed with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate. The organic solvent was evaporated under reduced pressure. The intermediate was purified by flash column chromatography. The intermediate was dissolved in acetic acid (5 mL) and heated in a microwave reactor at 160° C. for 1 hour. The organic solvent was evaporated under reduced pressure. Trifluoroacetic acid (5 mL) was added and the solution was heated in a microwave reactor at 120° C. for 30 minutes. The organic solvent was evaporated under reduced pressure. The crude product was purified by RP-HPLC to afford the desired 2-(5-hydroxy-6-p-tolylpyrimidin-4-yl)-1H-benzo[d]imidazole-5-carbonitrile P73 (16 mg, 0.049 mmol).

reactant | 5-(benzyloxy)-6-p-tolylpyrimidine-4-carboxylic acid | C(C1=CC=CC=C1)OC=1C(=NC=NC1C1=CC=C(C=C1)C)C(=O)O | C19H16N2O3
reactant | 3,4-diaminobenzonitrile | 0.30 mmol, 40 mg | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | HATU | 0.33 mmol, 124 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.37 mmol, 48 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(5-hydroxy-6-p-tolylpyrimidin-4-yl)-1H-benzo[d]imidazole-5-carbonitrile | OC=1C(=NC=NC1C1=CC=C(C=C1)C)C1=NC2=C(N1)C=CC(=C2)C#N | C19H13N5O
